Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Visual change
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with a PMH of HTN, CVA with L
facial droop and L hand clumsiness in ___ but no residual
deficits who presents with sudden monocular vision change in his
right eye. He states that his last known well was 18:45. He says
that he knows that is the time because that is when ___
threw an interception in the Super Bowl. He was lying on his
couch watching the game. He describes the change as "grey all
around" with a ___ clear vision in the shape of a
"football". This happened suddenly while watching the TV. It was
painless and has never happened before. He walked around for 10
minutes hoping it would go away. When it did not resolve, he 
went
to the OSH for evaluation. Patient states he is otherwise
asymptomatic. His vision has remained static without worsening 
or
improving since it began. 

At baseline, he requires OTC reading glasses for reading. 

His prior stroke in ___ caused L facial droop and clumsiness in
his left hand at the time, but he reports that he has no 
residual
deficits. Patient states he was told his previous stroke in ___
was attributed to hypertension. He follows up with his PCP three
times ___ year. He is on HTN medications but says he was told his
high blood pressure has gone away. 

Denies headache, dizziness, jaw claudication, weakness,
numbness/tingling, difficulty speaking or swallowing, n/v,
vertigo. 

ROS: 
On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.

 
Past Medical History:
HTN
CVA ___ w/ L facial droop, L hand clumsiness. No residual
deficits.  
 
Social History:
Lives with wife. ___.
Tobacco: Quit ___ years ago. Smoked 1 PPD for ___ years. 
Alcohol: 3 drinks/month
Recreational Drugs: none                         

- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 
Family History:
No history of stroke, seizure, migraines, MI in family.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Vitals: T: 96.8  HR: 91  BP: 165/73  RR: 16  SaO2: 97% on RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, ___, date. Able to
relate history without difficulty. Attentive, able to name ___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally, but R eye requires eye chart to be in 
specific
part of his visual field. Fundoscopic exam revealed no
papilledema or hemorrhages. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, vibration, or
proprioception throughout. No extinction to DSS. Romberg absent.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

 
Pertinent Results:
ADMISSION LABS
===============
___ 10:16PM BLOOD WBC-8.4 RBC-4.41* Hgb-14.6 Hct-42.5 
MCV-96 MCH-33.1* MCHC-34.4 RDW-13.2 RDWSD-47.4* Plt ___
___ 10:16PM BLOOD Neuts-79.7* Lymphs-12.6* Monos-6.2 
Eos-0.4* Baso-0.7 Im ___ AbsNeut-6.72* AbsLymp-1.06* 
AbsMono-0.52 AbsEos-0.03* AbsBaso-0.06
___ 10:16PM BLOOD ___ PTT-27.4 ___
___ 10:16PM BLOOD Glucose-129* UreaN-20 Creat-0.9 Na-143 
K-4.3 Cl-105 HCO3-23 AnGap-15
___ 10:16PM BLOOD ALT-24 AST-27 AlkPhos-93 TotBili-0.2
___ 10:16PM BLOOD cTropnT-<0.01
___ 05:05AM BLOOD Albumin-4.4 Calcium-9.4 Phos-4.0 Mg-2.2 
Cholest-239*
___ 05:05AM BLOOD %HbA1c-5.3 eAG-105
___ 05:05AM BLOOD Triglyc-189* HDL-64 CHOL/HD-3.7 
LDLcalc-137*
___ 05:05AM BLOOD TSH-2.7
___ 10:16PM BLOOD CRP-2.8
___ 10:16PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:05AM BLOOD SED RATE-PND

IMAGING
========
CT/CTA ___ 
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches appear normal without stenosis, occlusion, 
or aneurysm formation.  An azygous proximal anterior cerebral 
artery is seen, a congenital variant.  The dural venous sinuses 
are patent. 
  
CTA NECK: 
A diminutive right vertebral artery is seen with no flow seen 
within its V1 segment.  Diminutive flow seen within the 
remaining vessel may be retrograde flow from the contralateral 
side.  The left vertebral artery is unremarkable.  
Atherosclerotic changes of the carotid bifurcations are seen 
without narrowing of the internal carotid arteries, by NASCET 
criteria. 
  
OTHER: The visualized portion of the lungs are clear.  The 
visualized portion of the thyroid gland is within normal limits. 
There is no lymphadenopathy by CT size criteria.  Degenerative 
changes of the cervical spine are seen. 

MRI ___
Unremarkable MRI brain. Chronic lacunar infarct in the right 
putamen with 
evidence of chronic small vessel ischemic disease. 

CAROTID ULTRASOUND ___
No hemodynamically significant stenosis in either internal 
carotid artery of less than 40%. 

TTE ___
No left ventricular thrombus seen. Mild symmetric left 
ventricular hypertrophy with
normal cavity size and regional/global biventricular systolic 
function.

 
Brief Hospital Course:
MR. ___ was admitted to the Neurology Stroke Service after 
being found to have a right BRAO that likely resulted from 
carotid arthery atheroembolism given his CTA findings of right 
ICA calficiation. His MRI showed no evidence of infarct or other 
pathology. Carotid ultrasounds were obtained to better 
characterize the impact of his calcification on carotid flow and 
they showed no hemodynamically significant stenosis. Vascular 
surgery was consulted who agreed with medical management given 
his stenosis was <50%. His other routine stroke work up included 
: TTE___, cardiac monitoring which did not show Afib, Alc 5.3, 
TSH 2.7, LDL 137. He continued aspirin, hypertension medications 
were held. Given his elevated LDL, his atorvastatin was 
increased to 80mg. From an ophthalomolgic standpoint, he was 
evaluated in clinic twice during his hospitalization and exams 
showed retinal edema as expected. He trialed high flow oxygen 
overnight ___ per ophtho recommendations. They will follow him 
in clinic. It is unlikely he will recover the vision that he has 
lost.

TRANSITIONAL ISSUES:
[] NEW MEDICATIONS: PLAVIX 75MG, CRESTOR 40MG
[] FOLLOW UP WITH OPHTHALMOLOGY
[] FOLLOW UP WITH ___. ___ IN STROKE CLINIC ___ 
MONTHS
[] NO DRIVING UNTIL CLEARED BY OPHTHALMOLOGY

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 132 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5 
2.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5 
3.  amlodipine-benazepril ___ mg oral DAILY  
4.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Branch retinal artery occlusion, right
Hyperlipidemia
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear MR. ___,  
 You were hospitalized due to symptoms of vision loss resulting 
from an BRAIN RETINAL ARTERY OCCLUSION, a condition where the 
blood vessel providing oxygen and nutrients to the eye is 
blocked by a clot. This is essentially an ischemic stroke to 
your eye instead of your brain. We this occurred because your 
have calcification in your right carotid artery, seen on by CT 
and by ultrasound, that puts you at risk for this to occur and 
also at risk for future stroke. Fortunatley your MRI did not 
show that you had a recent stroke. You will be discharged on 
Aspirin and Plavix (clopidogrel) to prevent future stroke. Your 
other risk factor is high cholesterol, therefore we started you 
on a higher dose statin, an anti-cholesterol medicine. 
Please take your other medications as prescribed. You should 
continue your blood pressure medications.
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___